US09447090B2
To a solution of 2.5 g of methyl 5-[(2-fluorobenzyl)oxy]-6-nitronicotinate in 25 ml of THF were added 50 ml of ethanol, 25 ml of water, 218 mg of ammonium chloride, and 1.37 g of iron, followed by heating to reflux for 2 hours. After leaving to be cooled at room temperature, the reaction mixture was filtered over Celite, and to the filtrate were added a saturated aqueous sodium hydrogen carbonate solution and chloroform to carry out a layer separation operation. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to obtain 2.25 g of methyl 6-amino-5-[(2-fluorobenzyl)oxy]nicotinate.

reactant | methyl 5-[(2-fluorobenzyl)oxy]-6-nitronicotinate | 2.5 g | FC1=C(COC=2C(=NC=C(C(=O)OC)C2)[N+](=O)[O-])C=CC=C1 | C14H11FN2O5
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | water | 25 ml | O | H2O
reactant | ammonium chloride | 218 mg | [Cl-].[NH4+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | iron | 1.37 g | [Fe] | Fe
product | methyl 6-amino-5-[(2-fluorobenzyl)oxy]nicotinate | 2.25 g | NC1=NC=C(C(=O)OC)C=C1OCC1=C(C=CC=C1)F | C14H13FN2O3
